US05110983
Preparation of 2-(4-chlorocarbonylphenyl)-2-[4-(3-nitrophenoxy)phenyl]hexafluoropropane
146 g (0.3 mol) of 2-(4-carboxyphenyl)-2-[4-(3-nitrophenoxy)phenyl]hexafluoropropane were suspended in 714 g of thionyl chloride, 1 cm3 of dimethylformamide was added, and the mixture was refluxed till evolution of gas was no longer observed. The thionyl chloride was removed by distillation, and the residue was recrystallized from acetonitrile.

reactant | 2-(4-carboxyphenyl)-2-[4-(3-nitrophenoxy)phenyl]hexafluoropropane | 0.3 mol, 146 g | C(=O)(O)C1=CC=C(C=C1)C(C(F)(F)F)(C(F)(F)F)C1=CC=C(C=C1)OC1=CC(=CC=C1)[N+](=O)[O-] | C22H13F6NO5
reactant | dimethylformamide | 1 cm3 | CN(C=O)C | C3H7NO
reactant | thionyl chloride | 714 g | S(=O)(Cl)Cl | Cl2OS
product | 2-(4-chlorocarbonylphenyl)-2-[4-(3-nitrophenoxy)phenyl]hexafluoropropane | ClC(=O)C1=CC=C(C=C1)C(C(F)(F)F)(C(F)(F)F)C1=CC=C(C=C1)OC1=CC(=CC=C1)[N+](=O)[O-] | C22H12ClF6NO4
